US07923451B2
Step C: 4-[2-Amino-6-(tetrahydro-furan-3-yl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester.
A solution of 4-chloro-6-(tetrahydro-furan-3-yl)-pyrimidin-2-ylamine (500 mg, 2.51 mmol), N-BOC piperazine (960 mg, 5.15 mmol) and pyridine (500 uL, 6.1 mmol) in EtOH (10 mL) was heated at 90° C. for 4 h. Upon cooling to rt a thick precipitate formed which was collected by filtration. The material was rinsed with EtOAc to afford 125 mg of a white solid. The filtrate was concentrated and triturated with Et2O-EtOAc (1:1) to yield an additional 600 mg of material (82% combined). MS (ESI): mass calcd. for C17H27N5O3, 349.2; m/z found, 350.3 [M+H]+. 1H NMR (CDCl3): 5.86 (s, 1H), 4.70 (br s, 2H), 3.90-4.07 (m, 2H), 3.83-3.90 (m, 2H), 3.55-3.60 (m, 4H), 3.45-3.50 (m, 4H), 3.18-3.26 (m, 1H), 2.20-2.30 (m, 1H), 2.09-2.18 (m, 1H), 1.48 (s, 9H).

reactant | 4-chloro-6-(tetrahydro-furan-3-yl)-pyrimidin-2-ylamine | 2.51 mmol, 500 mg | ClC1=NC(=NC(=C1)C1COCC1)N | C8H10ClN3O
reactant | N-BOC piperazine | 5.15 mmol, 960 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | pyridine | 6.1 mmol, 500 uL | N1=CC=CC=C1 | C5H5N
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-[2-Amino-6-(tetrahydro-furan-3-yl)-pyrimidin-4-yl]-piperazine-1-carboxylic acid tert-butyl ester | 125 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=NC(=C1)C1COCC1)N | C17H27N5O3
